US04060523
A stirred suspension of 0.50 g. (1.47 mmol.) of 2-benzoyl-3-acetoxymethylquinoxaline 1,4-dioxide in 10 ml. of methanol was saturated with dry hydrogen chloride. The reaction mixture was stirred at room temperature for three days and then the suspended solid was removed by filtration. The solid was washed with methanol, and dried, to give 0.28 g. (61% yield ) of 1-methoxy-1-phenyl-1,3-dihydrofuro[3,4-b]quinoxaline 4,9-dioxide, m.p. 153°-155° C.

reactant | 2-benzoyl-3-acetoxymethylquinoxaline 1,4-dioxide | 1.47 mmol | C(C1=CC=CC=C1)(=O)C1=[N+](C2=CC=CC=C2[N+](=C1COC(C)=O)[O-])[O-] | C18H14N2O5
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | CO | CH4O
product | 1-methoxy-1-phenyl-1,3-dihydrofuro[3,4-b]quinoxaline 4,9-dioxide | 61% yield | COC1(OCC=2C1=[N+](C1=CC=CC=C1[N+]2[O-])[O-])C2=CC=CC=C2 | C17H14N2O4
